US06956052B2
A suspension of ethyl 1-(4-bromophenyl)-8-nitro-4,5-dihydro-1H-benzo[g]indazole-3-carboxylate (4.4 g) in THF (80 mL) was treated with 1 N aq. NaOH (80 mL) and stirred vigorously overnight. The reaction mixture was diluted with ethyl acetate and acidified to pH=2 with 1 N aq. HCl. The organic layer was separated and the aqueous fraction extracted with EtOAc (3×). Combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford 4.0 g (97%) of 1-(4-bromophenyl)-8-nitro-4,5-dihydro-1H-benzo[g]indazole-3-carboxylic acid as a solid: MS(ESI+) 414 [M+H]+. 1H NMR (400 MHz, d6 DMSO) δ 8.07 (dd, 1H), 7.83 (d, 2H), 7.66 (d, 1H), 7.56 (d, 2H), 7.42 (d, 1H), 3.10 (m, 2H), 2.99 (m, 2H).

reactant | ethyl 1-(4-bromophenyl)-8-nitro-4,5-dihydro-1H-benzo[g]indazole-3-carboxylate | 4.4 g | BrC1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)[N+](=O)[O-])C(=O)OCC | C20H16BrN3O4
reactant | NaOH | 1 N, 80 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-bromophenyl)-8-nitro-4,5-dihydro-1H-benzo[g]indazole-3-carboxylic acid | 4.0 g, 97% | BrC1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)[N+](=O)[O-])C(=O)O | C18H12BrN3O4
